US07915443B2
(S)-5-[(2-hydroxyphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
In a manner similar to that describe in Example 431 a mixture of (S)-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide and 1-ethynyl-2-hydroxybenzene were reacted to give the title compound as a white solid (6 mg, 7%).

reactant | (S)-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | C(#C)C=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C15H12N2O2S
reactant | 1-ethynyl-2-hydroxybenzene | C(#C)C1=C(C=CC=C1)O | C8H6O
product | (S)-5-[(2-hydroxyphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 6 mg, 7% | OC1=C(C=CC=C1)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C21H16N2O3S
